US08455477B2
A flask was charged with 1,5-naphthyridin-4-ol (1 g, 6.7 mmol) and phosphorousoxybromide (5 g, 17 mmol). The mixture was heated to 150° C., stirred for 1 hour, and then cooled to room temperature. The mixture was poured into ice-water and extracted with toluene. The combined organic extracts were washed with brine, dried over sodium sulfate, filtered and concentrated to give crude product, which was re-crystallized from petroleum ether to give 4-bromo-1,5-naphthyridine.

reactant | 1,5-naphthyridin-4-ol | 6.7 mmol, 1 g | N1=CC=C(C2=NC=CC=C12)O | C8H6N2O
reactant | phosphorousoxybromide | 17 mmol, 5 g | P(=O)(Br)(Br)Br | Br3OP
product | 4-bromo-1,5-naphthyridine | BrC1=CC=NC2=CC=CN=C12 | C8H5BrN2
